US07776875B2
Preparation of Intermediate E/Z-4-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester
In a manner similar to the method described in Example 1b, 4-(4-chloro-2-formyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (8 g, 25 mmol) was reacted with 6-chlorooxindole (4.1 g, 25 mmol) and pyrrolidine (1.8 g, 25 mmol) in methanol (50 mL) to give the title compound as a yellow solid (11 g).

reactant | 4-(4-chloro-2-formyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 25 mmol, 8 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)Cl)C=O | C16H21ClN2O3
reactant | 6-chlorooxindole | 25 mmol, 4.1 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | pyrrolidine | 25 mmol, 1.8 g | N1CCCC1 | C4H9N
solvent | methanol | 50 mL | CO | CH4O
product | Z-4-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 11 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)Cl)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O | C24H25Cl2N3O3
